US04889848
(aad) 11.1 g of 3-mercapto-thiophene-2-carboxamide, 2.2 g of 95 percent paraformaldehyde and 13.3 g of p-toluenesulfonic acid monohydrate were heated together under reflux with 300 ml of mesitylene. After the reaction finished, the mixture was left to cool and the solvent was removed in vacuo. After chromatography of the residue on silica gel and recrystallization from ethyl acetate, there was obtained 2,3-dihydro-4H-thieno[2,3-e][1,3]thiazin-4-one as yellowish crystals of m.p. 153°-155°.

reactant | 3-mercapto-thiophene-2-carboxamide | 11.1 g | SC1=C(SC=C1)C(=O)N | C5H5NOS2
reactant | paraformaldehyde | 2.2 g | C=O | CH2O
reactant | p-toluenesulfonic acid monohydrate | 13.3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | mesitylene | 300 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 2,3-dihydro-4H-thieno[2,3-e][1,3]thiazin-4-one | S1CNC(C2=C1C=CS2)=O | C6H5NOS2
